US08440681B2
The mixture 5-methylisoxazol-3-amine (98 mg, 1.0 mmol), 2,4,5-trichloropyrimidine (344 μL, 3.0 mmol), and sodium carbonate (106 mg, 1.0 mmol) in 3 mL of EtOH is heated at 60° C. over night. The reaction mixture is concentrated and then partitioned between EtOAc and brine. The collected organic extracts are dried (Na2SO4), concentrated in vacuo, and purified with silica gel chromatography (MeOH/DCM: 1/9) to afford N-(2,5-dichloropyrimidin-4-yl)-5-methylisoxazol-3-amine; ESMS m/z 245.0 (M+H+).

reactant | 5-methylisoxazol-3-amine | 1.0 mmol, 98 mg | CC1=CC(=NO1)N | C4H6N2O
reactant | 2,4,5-trichloropyrimidine | 3.0 mmol, 344 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 1.0 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | N-(2,5-dichloropyrimidin-4-yl)-5-methylisoxazol-3-amine | ClC1=NC=C(C(=N1)NC1=NOC(=C1)C)Cl | C8H6Cl2N4O
